US09120822B2
Preparation of 6-{[1-(6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-yl)-piperidin-4-ylamino]-methyl}-4H-benzo[1,4]oxazin-3-one
The titled compound is prepared as a light yellow solid (21 mg, 28% yield) following Scheme 1 and in analogy to Example 2 using 1-(6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-yl)-piperidin-4-ylamine (50 mg, 0.14 mmol, 1.0 eq) and 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde (27 mg, 0.14 mmol, 1.0 eq) as starting materials.

reactant | 1-(6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-yl)-piperidin-4-ylamine | 0.14 mmol, 50 mg, 1.0 eq | COC=1C=C2C=3CC(CSC3C=NC2=CC1)N1CCC(CC1)N | C18H23N3OS
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbaldehyde | 0.14 mmol, 27 mg, 1.0 eq | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
product | 6-{[1-(6-methoxy-3,4-dihydro-2H-1-thia-9-aza-phenanthrene-3-yl)-piperidin-4-ylamino]-methyl}-4H-benzo[1,4]oxazin-3-one | COC=1C=C2C=3CC(CSC3C=NC2=CC1)N1CCC(CC1)NCC=1C=CC2=C(NC(CO2)=O)C1 | C27H30N4O3S
